US09278915B2
Intermediate 167: Ethyl {4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenoxy}acetate
To a 50 mL RB flask fitted with magnetic stirrer was charged 10 mL of Toluene. to the stirred solvent was added ethyl (4-hydroxyphenoxy)acetate (0.2 g, 1.030 mmol) and (4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}phenyl)methanol (0.22 g, 0.810 mmol) was added Tributyl phosphine (0.268 g, 1.32 mmol) and 1,1′(Azodicarbonyl)di-piperidene (0.33 g, 1.326 mmol). Then the reaction mixture was Stirred at RT for 3 hrs. After completion of the reaction (reaction monitored by TLC), reaction mixture was extracted with ethyl acetate. Then the organic layer was dried over anhydrous Na2SO4. Solvent was removed under reduced pressure, and the resulting crude compound was purified by column chromatography on silica gel using petroleum ether and ethyl acetate as eluent (0.13 g Yield: 28.3%): 1H NMR (300 MHz, CDCl3): δ 7.57-7.60 (m, 2H), 7.18-7.28 (m, 5H), 6.82-6.84 (d, 3H), 6.78-6.79 (d, 3H), 5.12 (s, 2H), 4.83 (s, 2H), 4.49 (s, 2H), 4.15-4.22 (m, 2H), 3.98 (s, 3H), 1.19-1.24 (t, 3H).

reactant | ethyl (4-hydroxyphenoxy)acetate | 1.030 mmol, 0.2 g | OC1=CC=C(OCC(=O)OCC)C=C1 | C10H12O4
reactant | (4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}phenyl)methanol | 0.810 mmol, 0.22 g | CO\N=C(/COC1=CC=C(C=C1)CO)\C1=CC=CC=C1 | C16H17NO3
reactant | Tributyl phosphine | 1.32 mmol, 0.268 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl {4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenoxy}acetate | Yield: 28.3% | CO\N=C(/COC1=CC=C(COC2=CC=C(OCC(=O)OCC)C=C2)C=C1)\C1=CC=CC=C1 | C26H27NO6
